US09062028B2
Step A. tert-Butyl 3-((5-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-2H-tetrazol-2-yl)methyl)phenylcarbamate
A mixture of 1-(5-(1H-tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one (0.16 g, 0.409 mmol), tert-butyl 3-(bromomethyl)phenylcarbamate (0.152 g, 0.531 mmol) and K2CO3 (0.113 g, 0.817 mmol) in DMF (1 mL) was stirred at 80° C. for 16 h. The mixture was partitioned between EtOAc and water. The organic layer was separated, washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to provide the crude material. The crude material was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (96 mg, 40% yield). LCMS, [M+H]+=597.4.

reactant | 1-(5-(1H-tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | 0.409 mmol, 0.16 g | N1N=NN=C1C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C22H25N5O2
reactant | tert-butyl 3-(bromomethyl)phenylcarbamate | 0.531 mmol, 0.152 g | BrCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C12H16BrNO2
reactant | K2CO3 | 0.817 mmol, 0.113 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-((5-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-2H-tetrazol-2-yl)methyl)phenylcarbamate | 96 mg, 40% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2N=NN(N2)CC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC=C1C | C34H40N6O4
